US07745484B2
To a solution of 1-(5-(methoxymethoxy)-2-neopentylpyridin-4-yl)ethanol (24.4 g, 96.3 mmol) and sodium bicarbonate (32.4 g, 385 mmol) in CHCl3 (500 mL) at 0° C. was added Dess-Martin Periodinane (53.1 g, 125 mmol). The reaction was stirred 5 h, quenched with saturated aqueous Na2SO3 (300 mL), extracted with CH2Cl2 (3×250 mL), the combined organic layers washed with saturated NaCl (300 mL), dried (Na2SO4), and concentrated to give a yellow oil. Purification by ISCO (330 g SiO2, 20% EtOAc/Hexane) gives 1-(5-(methoxymethoxy)-2-neopentylpyridin-4-yl)ethanone as a clear, colorless oil.

reactant | 1-(5-(methoxymethoxy)-2-neopentylpyridin-4-yl)ethanol | 96.3 mmol, 24.4 g | COCOC=1C(=CC(=NC1)CC(C)(C)C)C(C)O | C14H23NO3
reactant | sodium bicarbonate | 385 mmol, 32.4 g | C([O-])(O)=O.[Na+]
reactant | Dess-Martin Periodinane | 125 mmol, 53.1 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-(methoxymethoxy)-2-neopentylpyridin-4-yl)ethanone | COCOC=1C(=CC(=NC1)CC(C)(C)C)C(C)=O | C14H21NO3
